US07176220B2
Under an argon stream, zinc powder (113.02 g, 1.73 mol) was suspended in tetrahydrofuran (350 ml), and 1,2-dibromoethane (1.207 ml, 14.00 mmol) and trimethylsilyl chloride (8.88 ml, 70.00 mmol) were added at 60° C. The mixture was stirred with heating at 30 min. A solution of 3-chloro-2-fluorobenzyl bromide (406.73 g, 1.82 mol) in tetrahydrofuran (700 ml) was added dropwise at 60° C. The mixture was stirred with heating for 1 hr to give a solution of 3-chloro-2-fluorobenzylzinc bromide.

reactant | zinc | 1.73 mol, 113.02 g | [Zn] | Zn
reactant | 1,2-dibromoethane | 14.00 mmol, 1.207 ml | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 70.00 mmol, 8.88 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-chloro-2-fluorobenzyl bromide | 1.82 mol, 406.73 g | ClC=1C(=C(CBr)C=CC1)F | C7H5BrClF
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 3-chloro-2-fluorobenzylzinc bromide | [Br-].ClC=1C(=C(C[Zn+])C=CC1)F | InChI=1S/C7H5ClF.BrH.Zn/c1-5-3-2-4-6(8)7(5)9;;/h2-4H,1H2;1H;/q;;+1/p-1
